US04063925
1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole calcium salt
In 50 ml. of water is suspended 2.85 g. of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole and the suspension is dissolved in about 5 ml. of a 2N aqueous solution of sodium hydroxide. A solution of 1.11 g. of calcium chloride in 10 ml. of water is added and the resulting mixture is stirred. The so separated precipitates are recovered by filtration and dried to give 2.4 g. of the desired product as white powder melting at about 260° C. Yield 79.0%.

reactant | 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H10Cl2N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | water | O | H2O
product | 1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole calcium salt | Yield 79.0% | [Ca].CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | InChI=1S/C12H10Cl2N2O2.Ca/c1-6-10(12(18)16(2)15-6)11(17)8-4-3-7(13)5-9(8)14;/h3-5,18H,1-2H3;
